US04333942
(a) 1-Methyl-4-phenoxy-4-phenylpiperidine
A solution of 3.0 g of sodium nitrite in 18 ml of water is added dropwise to a solution of 10.0 g of 4-(4-aminophenoxy)-1-methyl-4-phenylpiperidine in 12 ml of concentrated hydrochloric acid and 30 ml of water at -10° C. The mixture is subsequently stirred at -5° C. for 45 minutes, 50 ml of 50% strength hypophosphorous acid are added dropwise at -5° C., and the reaction mixture is left to stand at 0° C. for 24 hours. It is rendered alkaline with 6 N sodium hydroxide solution, while cooling with ice, and extracted with diethyl ether. After treating the organic phase with active charcoal, it is dried over sodium sulfate and concentrated. Resulting residue yields (after recrystallization from 100 ml of n-hexane) 5.5 g of the title compound of m.p. 99° to 101° C.

reactant | sodium nitrite | 3.0 g | N(=O)[O-].[Na+]
reactant | 4-(4-aminophenoxy)-1-methyl-4-phenylpiperidine | 10.0 g | NC1=CC=C(OC2(CCN(CC2)C)C2=CC=CC=C2)C=C1 | C18H22N2O
reactant | hypophosphorous acid | [PH2](=O)O | H3O2P
reactant | sodium hydroxide | 6 N | [OH-].[Na+]
solvent | water | 18 ml | O | H2O
solvent | hydrochloric acid | 12 ml | Cl | ClH
solvent | water | 30 ml | O | H2O
product | 1-Methyl-4-phenoxy-4-phenylpiperidine | CN1CCC(CC1)(C1=CC=CC=C1)OC1=CC=CC=C1 | C18H21NO
